US08791129B2
(2-Amino-6-{2-[(cyclopropylmethylamino)methyl]phenyl}quinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone (“A51”)
114 mg of (2-bromobenzyl)cyclopropylmethylamine, 100 mg of potassium carbonate, 7 μl of water and 29 mg of [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride are added to a solution of 150 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 5 ml of ethanol under argon. The mixture is heated at 120° C. for 30 min; the hot mixture is filtered through kieselguhr, the filtrate is evaporated and purified by chromatography (reversed phase HPLC).

reactant | (2-bromobenzyl)cyclopropylmethylamine | 114 mg | BrC1=C(CNCC2CC2)C=CC=C1 | C11H14BrN
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 7 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 150 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride | 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-Amino-6-{2-[(cyclopropylmethylamino)methyl]phenyl}quinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC=C1)CNCC1CC1 | C28H27N5O
